US06281363B1
In a manner analogous to that described in Example 26, part (i) but using benzenesulphonyl chloride in place of methanesulphonyl chloride from 0.83 g of 2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenylbutyl]-4-methyl-N-[2,4-dioxo-1,3,8-triazaspiro[4.5]decan-3-yl]valeramide there was obtained 0.889 g of N-[8-(benzenesulphonyl)-2,4-dioxo-1,3,8-triazaspiro[4.5]decan-3-yl]-2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenylbutyl]-4-methylvaleramide in the form of a white solid.

reactant | benzenesulphonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | 2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenylbutyl]-4-methyl-N-[2,4-dioxo-1,3,8-triazaspiro[4.5]decan-3-yl]valeramide | 0.83 g | C(C)(C)(C)OC(=O)[C@@H](CCCC1=CC=CC=C1)[C@H](C(=O)NN1C(NC2(C1=O)CCNCC2)=O)CC(C)C | C28H42N4O5
product | N-[8-(benzenesulphonyl)-2,4-dioxo-1,3,8-triazaspiro[4.5]decan-3-yl]-2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenylbutyl]-4-methylvaleramide | 0.889 g | C1(=CC=CC=C1)S(=O)(=O)N1CCC2(C(N(C(N2)=O)NC([C@H](CC(C)C)[C@H](CCCC2=CC=CC=C2)C(=O)OC(C)(C)C)=O)=O)CC1 | C34H46N4O7S
